US04271164
Following the procedure of Example 1, 2-chloro-6-methylphenylacetonitrile is condensed with 4-amino-2-methylpyrimidine-5-carboxaldehyde to give 6-(2-chloro-6-methylphenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-amine, mp 267°-271° C., after recrystallization from isopropanol.

reactant | 2-chloro-6-methylphenylacetonitrile | ClC1=C(C(=CC=C1)C)CC#N | C9H8ClN
reactant | 4-amino-2-methylpyrimidine-5-carboxaldehyde | NC1=NC(=NC=C1C=O)C | C6H7N3O
product | 6-(2-chloro-6-methylphenyl)-2-methylpyrido[2,3-d]-pyrimidin-7-amine | ClC1=C(C(=CC=C1)C)C1=CC2=C(N=C(N=C2)C)N=C1N | C15H13ClN4
